US09382265B2
(b) (3R,3 aS)-3-(hydroxymethyl)-7-(2-oxooxazol-3-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one
Using compound (3R,3aS)-3-((t-butyldimethylsiloxy)methyl)-7-(2-oxooxazol-3-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one (0.38 g, 0.904 mmol), and TBAF (0.47 g, 1.807 mmol) as starting materials, THF as solvent, preparation following the method as described in Example 1(b) afforded white solid 0.29 g, yield 99.9%.

reactant | (3R,3aS)-3-((t-butyldimethylsiloxy)methyl)-7-(2-oxooxazol-3-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one | 0.904 mmol, 0.38 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(OC=C3)=O)=O | C20H26N2O6Si
reactant | TBAF | 1.807 mmol, 0.47 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
product | (3R,3 aS)-3-(hydroxymethyl)-7-(2-oxooxazol-3-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one | 0.29 g, yield 99.9% | OC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(OC=C3)=O)=O | C14H12N2O6
